US05849599
A second tobramycin-biotin-avidin conjugate was prepared as set forth above in this Example, but using molar ratios of tobramicin to biotin to CDI/NHS of 30:1:1.3.

reactant | tobramicin | C1[C@@H]([C@H]([C@@H]([C@H]([C@@H]1N)O[C@@H]2[C@@H]([C@H]([C@@H]([C@H](O2)CO)O)N)O)O)O[C@@H]3[C@@H](C[C@@H]([C@H](O3)CN)O)N)N | C18H37N5O9
reactant | biotin | OC(=O)CCCC[C@@H]1SC[C@@H]2NC(=O)N[C@H]12 | C10H16N2O3S
reactant | CDI | C1=CN(C=N1)C(=O)N2C=CN=C2 | C7H6N4O
product | tobramycin biotin | C1[C@@H]([C@H]([C@@H]([C@H]([C@@H]1N)O[C@@H]2[C@@H]([C@H]([C@@H]([C@H](O2)CO)O)N)O)O)O[C@@H]3[C@@H](C[C@@H]([C@H](O3)CN)O)N)N.OC(=O)CCCC[C@@H]1SC[C@@H]2NC(=O)N[C@H]12 | InChI=1S/C18H37N5O9.C10H16N2O3S/c19-3-9-8(25)2-7(22)17(29-9)31-15-5(20)1-6(21)16(14(15)28)32-18-13(27)11(23)12(26)10(4-24)30-18;13-8(14)4-2-1-3-7-9-6(5-16-7)11-10(15)12-9/h5-18,24-28H,1-4,19-23H2;6-7,9H,1-5H2,(H,13,14)(H2,11,12,15)/t5-,6+,7+,8-,9+,10+,11-,12+,13+,14-,15+,16-,17+,18+;6-,7-,9-/m00/s1
